US03991106
Step A: Preparation of 4-Fluorophenoxyacetaldehyde Diethyl Acetal
A solution of p-fluorophenol (28.1 g., 0.25 mole) in DMF (30 ml.) is added dropwise to a suspension of hexane (2 × 30 ml.)-prewashed sodium hydride (50% oil dispersion, 12.5 g., 0.26 mole) in DMF (120 ml.). The resulting mixture is stirred at room temperature for 10 minutes, treated with bromoacetaldehyde diethyl acetal (49.3 g., 0.25 mole), and finally heated on a steam bath for 4 hours. The reaction mixture is allowed to come to room temperature and the precipitated sodium bromide is filtered off. DMF is then removed on a rotary evaporator, the oil residue is diluted with acetone (100 ml.) and another quantity of sodium bromide is precipitated which again is removed by filtration. The filtrate is then concentrated on a rotary evaporator leaving an oil residue which is vacuum distilled at 87°/0.05 mm to yield the desired product as colorless oil (46.7 g., 0.205 mole, 82%). ir (neat) 3.4~3.5, 6.21, 6.64, 8.00, 8.25, 8.83, 9.32, 12.08, 13.20μ; pmr (CCl4) δ 1.17 (6H, t, J=7.5Hz), 3.57 (2H, q, J=7.5Hz), 3.61 (2H, q, J=7.5Hz), 3.85 (2H, d, J=5Hz), 4.68 (1H, t, J=5Hz), 6.6- 7.1 (4H, m).

reactant | p-fluorophenol | 0.25 mole, 28.1 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | hexane | CCCCCC | C6H14
reactant | sodium hydride | 0.26 mole, 12.5 g | [H-].[Na+]
reactant | bromoacetaldehyde diethyl acetal | 0.25 mole, 49.3 g | C(C)OC(CBr)OCC | C6H13BrO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | 4-Fluorophenoxyacetaldehyde Diethyl Acetal | 0.205 mole, 46.7 g, 82% | C(C)OC(COC1=CC=C(C=C1)F)OCC | C12H17FO3
